US06329550B1
1.3 Synthesis of N,N ′-Diphenethyl-2-((R)-2-bromo-3 -methylbutyrylamino)malonamide
Combine N,N′-diphenethyl-2-aminomalonamide trifluoroacetic acid salt (0.285 g, 0.655 mmol) and dichloromethane (5 mL). Add (R)-2-bromo-3-methylbutyric acid (0.118 g, 0.655 mmol), N-methylmorpholine (0.10 mL, 0.983 mmol), and 1-ethyl-3-(3-(dimethylamino)propyl)carbodiimide hydrochloric acid salt (0.14 g, 0.725 mmol), and 1 -hydroxybenztriazole hydrate (0.10 g, 0.72 mmol). After 18 hours, evaporate the reaction mixture in vacuo, dilute the concentrated reaction mixture with ethyl acetate, extract with an aqueous 5% sulfuric acid solution, a saturated sodium bicarbonate solution, and then brine. Saturate each of the aqueous layers with sodium chloride and extract four times with ethyl acetate. Combine the organic layers, dry over Na2SO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with 1/1 ethyl acetate/hexane to give the title compound (67%).

reactant | N,N′-diphenethyl-2-aminomalonamide trifluoroacetic acid salt | 0.655 mmol, 0.285 g | FC(C(=O)O)(F)F.C(CC1=CC=CC=C1)NC(C(C(=O)NCCC1=CC=CC=C1)N)=O
reactant | (R)-2-bromo-3-methylbutyric acid | 0.655 mmol, 0.118 g | Br[C@@H](C(=O)O)C(C)C | C5H9BrO2
reactant | N-methylmorpholine | 0.983 mmol, 0.10 mL | CN1CCOCC1 | C5H11NO
reactant | 1-ethyl-3-(3-(dimethylamino)propyl)carbodiimide hydrochloric acid salt | 0.725 mmol, 0.14 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1 -hydroxybenztriazole hydrate | 0.72 mmol, 0.10 g | O.ON1N=NC2=C1C=CC=C2
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | N,N ′-Diphenethyl-2-((R)-2-bromo-3 -methylbutyrylamino)malonamide | 67% | C(CC1=CC=CC=C1)NC(C(C(=O)NCCC1=CC=CC=C1)NC([C@@H](C(C)C)Br)=O)=O | C24H30BrN3O3
